2115-02-16 11:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2115-2-15**] 06:03 PM
 EKG - At [**2115-2-16**] 02:32 AM
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus
   Diphther Toxoid)
   Hives;
   Lisinopril
   Angioedema;
   Mavik (Oral) (Trandolapril)
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-16**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-16**] 10:40 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2115-2-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-2-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-16**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 95 (85 - 104) bpm
   BP: 152/71(90) {120/59(74) - 168/74(90)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
             Total In:
                                                                    401 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                    401 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,680 mL
   Urine:
                                                                  1,000 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -599 mL
                                                                   -932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (527 - 748) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.47/39/163/28/5
   Ve: 11.2 L/min
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles
   diffusely: )
   Abdominal: Soft, Non-tender, Reducible umbilical hernia
   Extremities: Right: 2+, Left: 3+
   Skin:  Warm, Rash: eccymosis around lower abdomen
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   227 K/uL
   10.4 g/dL
   114 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.6 mEq/L
   17 mg/dL
   90 mEq/L
   126 mEq/L
   31.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2115-2-15**]  04:47 PM
                             [**2115-2-15**]  07:18 PM
                             [**2115-2-15**]  10:51 PM
                             [**2115-2-16**]  12:00 AM
                             [**2115-2-16**]  04:05 AM
   WBC
   7.9
   5.1
   Hct
   30.0
   31.1
   Plt
   212
   227
   Cr
   1.0
   0.9
   TropT
   0.07
   0.04
   TCO2
   29
   Glucose
   101
   109
   114
   Other labs: PT / PTT / INR:13.3/28.3/1.1, CK / CKMB /
   Troponin-T:45/5/0.04, Differential-Neuts:90.5 %, Lymph:4.1 %, Mono:4.8
   %, Eos:0.4 %, Albumin:3.7 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ELECTROLYTE & FLUID DISORDER, OTHER
   Assesment: This is a 66 year-old male with severe COPD and recent
   admission for COPD exacerbation who is admitted intubated after
   experiencing increased WOB and hyponatremia.
   .
   Plan:
   #. Respiratory failure: Pt presented to the ED with complaints of
   dyspnea, upon assessment required intubation currently on ventilatory
   support. Pt has a history of dyspnea that improves only with an
   increase in his steroid doses. His last spirometry in [**2114-12-26**] showed
   Stage IV COPD with an FEV1 28%; FEV1/FVC 55%.  He did not improve with
   diuresis, nitro page or nitro gtt, so this does not likely represent a
   CHF exacerbation. Also BNP was low at 364. Had recent admission for
   COPD exacerbation and was treated with 10 days of ceftaz and 5 days of
   Bactrim for pseudomonas/MRSA + sputum.  Patient did not appear to have
   much of a cough or sputum production prior to intubation.  However, he
   does have evidence of RLL infiltrate on CT scan.
   - Sputum sample if possible
   - Follow up [**Hospital1 **] [**Location (un) 1415**] sensitivities
   - Will give vanc/zosyn for now given recent pseudomonas and MRSA +
   sputum cultures, will focus coverage within 24 hours if continued
   improvement
   - Stress dose steroids Solumedrol 125mg q8hrs
   - Patient currently weaned successfully on CPAP 5/5. Pt still has
   icnreased WOB and is not ready for extubation as of yet, particularlyt
   given his stage of COPD. Will  trial increase of PEEP to 10 to see if
   this will aid his work of breathing.
   - Will contact outpatient pulmonologist today top notify pt of
   admission
   .
   # Hyponatremia: Given family
s report that pt has had poor PO intake I
   believe he is hypovolemic hyponatremic particularly given his Na
   response to NS bolus.  NS was held this AM as pt had a 6Meq increase,
   however after NS was held pt
s Na continued to decrease. Serum Osm
   noted to be low at 251 but still within 10 of predicted Osm, urine Osm
   is higher than expected. Will continue to assess pt
s response to
   fluids, other factors to consider are SIADH however I would expect the
   urine Osm to be higher and I do not believe pt was euvolemic on
   presewntation.
   - Will try to restart NS at 75 cc/hr and continue q4hr Na checks, aim
   to correct Na 0.5Meq per hour
   - Renal is currently following appreciate recs, will f/u on Renal recs
   .
   # Delirium: Pt
s delirium state appears to be improving he was able to
   communicate a few phrases today. Cause is multifactorial.  Likely
   acutely worsened by his hyponatremia.  However, he had also been taking
   increased narcotic medication, had minimal sleep over multiple days and
   had not been eating or drinking.  Currently intubated and sedated.
   - Wean sedation as possible
   - Correct hyponatremia
   - Avoid benzos or narcotics if possible
   - Continue to follow mental status when awake
   .
   # Lower extremity edema: Per the family, this has been an ongoing
   problem, never any definitive etiology.  He has diasolic heart failure,
   but no pnd/orthopnea or other symptoms suggestive of acute CHF.  Also,
   BNP was less than 400.
   - Continue to hold lasix
   - Consider compression hose
   .
   # FEN:  NPO for now, will attempt extubation tomorrow, if unable, will
   place OG and place Nutrition consult, hyponatremia management as above,
   replete lytes prn
   .
   # Access: PIV for now
   .
   # PPx: lansoprazole, hep SQ
   .
   # Code: FULL CODE, pt does have a history of DNR/DNI but has rescinded
   it currently will be FULL CODE pending further family discussion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-2-15**] 06:00 PM
   20 Gauge - [**2115-2-16**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 5028**] remains intubated but more aware of his surroundings. He has
   transitioned off 3% NS and is currently on CPAP and PSv of [**11-4**] cms
   with continued use of accessory muscles. He has minimal secretions at
   present through ETT and is not on pressors.
   Exam notable for Tm of 99 BPof 152/71  HR of 95 RR of 16 with sats of
   96% on FiO2 of 50% and 5 PEEP . he has diffuse expiratory wheezing with
   distant breath and heart sounds. He has features of anasarca but more
   so in his lower extremities ( till his thighs). Labs notable for WBC of
   5.1 K, HCT of 31.1 , K+ of 4.6, Cr of 0.9 , Na of 126 ( 118) lactate of
   1.5. CTA chest did now show occlusive pulmonary vascular disease but
   did reveal RLL ASD and severe underlying COPD. EKG is without ischemic
   change.
   Agree with plan to continue ventilatory support today with adjustment
   of PSV/ CPAP settings and wean of FiO2. We will maximize
   bronchodilators and continue with IV solumedrol and duonebs through
   ETT. Broad antibiotics will also continue for now for suspected
   nosocomial pathogens. Na has responded to 3% saline and now NS
   infusion. It is likely a consequence of both appropriate (
   hypoperfusion and hypovolemia) and inappropriate ADH release ( lung
   disease). I have had a lengthy discussion with his family at the
   bedside and they wish for continued ventilatory support and wish to
   reverse DNR status. We will move towards attempts at extubation in next
   24 hours if he responds to supportive Rx and normalizes metabolic
   profile. Propafol appears to work well for sedation needs. He will need
   a PICC line or A line today for phlebotomy purposes.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2115-2-16**] 01:46 PM ------

2115-02-17 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - After discussion with the family in the am about intubation and code
   status, the patient's code status was changed to full code.
   - A PICC was placed.
   - His hyponatremia slowly improved from 126 --> 127 --> 128 with NS.
   - His Prot/Cr was 0.2.
   - He was started on tube feeds.
   - His PEEP was increased to 10 (from 5).
   - Flu negative.
   This am the patient nods his head to pain from the ETT, but denies
   other sources of pain.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus
   Diphther Toxoid)
   Hives;
   Lisinopril
   Angioedema;
   Mavik (Oral) (Trandolapril)
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-17**] 12:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-17**] 01:27 AM
   Infusions:
   Propofol - 40 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2115-2-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-2-17**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-17**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 69 (69 - 104) bpm
   BP: 148/65(85) {139/61(81) - 171/88(113)} mmHg
   RR: 13 (13 - 30) insp/[**Year (4 digits) **]
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 68 Inch
             Total In:
                                                                  2,333 mL
                                                                  1,141 mL
   PO:
             TF:
                                                                    110 mL
                                                                    130 mL
   IVF:
                                                                  2,223 mL
                                                                  1,011 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    730 mL
   Urine:
                                                                  2,595 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -262 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 611 (527 - 635) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 9 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Elderly man lying in bed with an ETT in place on
   the ventilator
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: A few coarse breath sounds b/l.
   Abdominal: +BS, Soft, Non-tender, Reducible umbilical hernia
   Extremities: Right: 2+, Left: 3+; compression stockings
   Skin:  Warm, Rash: eccymosis around lower abdomen
   Neurologic: Alert, follow commands and moves all extremities to
   commands, tries to talk around the ETT tube, nods his head to
   questions.
   Labs / Radiology
   212 K/uL
   9.7 g/dL
   162 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   90 mEq/L
   126 mEq/L
   27.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2115-2-15**]  04:47 PM
                             [**2115-2-15**]  07:18 PM
                             [**2115-2-15**]  10:51 PM
                             [**2115-2-16**]  12:00 AM
                             [**2115-2-16**]  04:05 AM
                             [**2115-2-16**]  02:51 PM
                             [**2115-2-16**]  07:39 PM
                             [**2115-2-17**]  04:24 AM
   WBC
   7.9
   5.1
   7.2
   Hct
   30.0
   31.1
   27.7
   Plt
   [**Telephone/Fax (3) 7538**]
   Cr
   1.0
   0.9
   0.8
   0.7
   0.6
   TropT
   0.07
   0.04
   TCO2
   29
   Glucose
   101
   109
   114
   143
   137
   162
   Other labs: PT / PTT / INR:13.3/28.3/1.1, CK / CKMB /
   Troponin-T:45/5/0.04, Differential-Neuts:90.5 %, Lymph:4.1 %, Mono:4.8
   %, Eos:0.4 %, Albumin:3.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.8
   mg/dL
   [1][**2115-2-16**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2115-2-16**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [3][**2115-2-16**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [4][**2115-2-15**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [5][**2115-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [6][**2115-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   66 year-old male with severe COPD and recent admission for COPD
   exacerbation who is admitted intubated after experiencing increased WOB
   and hyponatremia.
   #. Respiratory failure: Pt presented to the ED with complaints of
   dyspnea, upon assessment required intubation currently on ventilatory
   support. Pt has a history of dyspnea that improves only with an
   increase in his steroid doses. His last spirometry in [**2114-12-26**] showed
   Stage IV COPD with an FEV1 28%; FEV1/FVC 55%.  He did not improve with
   diuresis, nitro page or nitro gtt, so this does not likely represent a
   CHF exacerbation. Also BNP was low at 364. Had recent admission for
   COPD exacerbation and was treated with 10 days of ceftaz and 5 days of
   Bactrim for pseudomonas/MRSA + sputum.  Patient did not appear to have
   much of a cough or sputum production prior to intubation.  However, he
   does have evidence of RLL infiltrate on CT scan.
   - F/u pending sputum sample (grew out 1+ gram neg rods)
   - Follow up [**Hospital1 **] [**Location (un) 1415**] sensitivities
   - Continue vanc/zosyn for now given recent pseudomonas and MRSA +
   sputum cultures
   - Continue IV Solumedrol
   - Patient currently at CPAP of [**11-9**].  Will attempt a SBT and extubate
   if and ABG looks ok and he does well with the SBT.
   - Ativan prn for anxiety once extubated and BIPAP support prn.
   - Speech and swallow consult given recent intubation.
   # Hyponatremia:  The patient
s Na was 118 on admission and had
   increased to 126
128 yesterday, but is no down to 126 today.  Was
   getting NS at 100 cc/hr yesterday.  On admission his Uosm was 367 and
   Una was 22.  He initally repsonded to IVF indicating that he likely had
   hypovolemic hyponatremia.  He has been volume resusitated, however he
   has not fully correctly.  Likely has a component of SIADH
   - 2 L Fluid restriction if urine lytes are consistent with SIADH
   - Continue to trend Na
   - Appreciate renal consult, will f/u recs.
   # Anemia: The patient
s Hct decreased from 31.1 to 27.7.  No clinical
   evidence of bleeding.  Hct was 32.5 on admission (baseline Hct appears
   to be in the high 20
s to low 30
   - Guaiac all stools.
   - continue to follow daily Hct.
   # Lower extremity edema: Per the family, this has been an ongoing
   problem, never any definitive etiology.  He has diasolic heart failure,
   but no pnd/orthopnea or other symptoms suggestive of acute CHF.  Also,
   BNP was less than 400.
   - Continue to hold lasix
   - compression stockings
   # Code: FULL CODE, pt does have a history of DNR/DNI but has rescinded
   it currently will be FULL CODE pending further family discussion.
   ICU Care
   Nutrition: Tube feeds started yesterday, being held currently in
   anticipation of possible extubation today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-2-16**] 09:30 AM
   PICC Line - [**2115-2-16**] 02:30 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code, will readdress with the patient and family once
   extubated.
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 5028**] is more arousable today and tolerating his SBT well. He
   continues to manifest use of his accessory muscles but his cough is
   strong. His sodium is still low and TBB has been negative without
   diuretics.
   Exam notable for Tm of 99.5 BP of 170/66  HR of 85 RR of 20 with satsof
   95% on 40% FiO2 . his belly is soft but obese. Labs notable for WBC of
   7.2K, HCT of 27.7 , K+ 3.8 , Na of 126 Cr of 0.6 . ABG is shows ph of
   7.37 and PCO2 of 57. CXR with resolving RLL ASD and no effusions
   Agree with plan to extubate. He will need aggressive nebulizer therapy
   and BP control in post extubation setting. Mucinex will be added to
   regimen and BiPAP used on as needed basis. We will recheck urine lytes
   after NS administration. If this is in keeping with SIADH, then fluid
   restriction to be considered too with /without the need for diuretics.
   Zosyn and Vanco to continue despite sputum with 1+ GNR. He will remain
   in ICU.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2115-2-17**] 12:41 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2115-02-18 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-2-17**] 10:10 AM
   - successfully extubated yesterday morning
   - sodium 133--->134--
   - reported seeing black spots for approximately 1 hour, no visual field
   cuts, no blurred vision, ? steroids, no hypoxia, did not occur again
   - intermittently anxious - responded well to 1mg Ativan x1 twice
   - hypertensive to 180's early this morning, gave his verapamil early
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus
   Diphther Toxoid)
   Hives;
   Lisinopril
   Angioedema;
   Mavik (Oral) (Trandolapril)
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-17**] 11:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-18**] 01:54 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2115-2-17**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-2-17**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 93 (68 - 97) bpm
   BP: 155/80(98) {138/47(70) - 186/121(132)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 68 Inch
             Total In:
                                                                  3,446 mL
                                                                    177 mL
   PO:
                                                                    240 mL
             TF:
                                                                    130 mL
   IVF:
                                                                  3,076 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,932 mL
                                                                    555 mL
   Urine:
                                                                  1,932 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,514 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 497 (497 - 538) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: 7.37/54/123/31/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular:  regular rate, no mrg
   Peripheral Vascular:  2+ distal pulses bilaterally
   Respiratory / Chest: scattered wheezes throughout,
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities:  [**2-1**]+ [**Location (un) **] bilaterally
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   9.5 g/dL
   202 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   135 mEq/L
   29.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2115-2-16**]  02:51 PM
                             [**2115-2-16**]  07:39 PM
                             [**2115-2-17**]  04:24 AM
                             [**2115-2-17**]  09:56 AM
                             [**2115-2-17**]  10:03 AM
                             [**2115-2-17**]  12:00 PM
                             [**2115-2-17**]  04:00 PM
                             [**2115-2-17**]  05:47 PM
                             [**2115-2-18**]  05:07 AM
                             [**2115-2-18**]  06:27 AM
   WBC
   7.2
   12.5
   Hct
   27.7
   29.6
   Plt
   212
   245
   Cr
   0.8
   0.7
   0.6
   0.6
   0.7
   0.6
   TCO2
   32
   Glucose
   143
   137
   162
   145
   162
   162
   206
   202
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:45/5/0.04, Differential-Neuts:90.5 %, Lymph:4.1 %, Mono:4.8
   %, Eos:0.4 %, Albumin:3.7 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ELECTROLYTE & FLUID DISORDER, OTHER
   66 year-old male with severe COPD and recent admission for COPD
   exacerbation who is admitted intubated after experiencing increased WOB
   and hyponatremia.
   #. Respiratory failure:  Resolving, successfully extubated yesterday
   morning.  Pt presented to the ED with complaints of dyspnea, upon
   assessment required intubation. Pt has a history of dyspnea that
   improves only with an increase in his steroid doses. His last
   spirometry in [**2114-12-26**] showed Stage IV COPD with an FEV1 28%; FEV1/FVC
   55%.  He did not improve with diuresis, nitro page or nitro gtt, so
   this does not likely represent a CHF exacerbation. Also BNP was low at
   364. Had recent admission for COPD exacerbation and was treated with 10
   days of ceftaz and 5 days of Bactrim for pseudomonas/MRSA + sputum.
   Patient did not appear to have much of a cough or sputum production
   prior to intubation.  However, he does have evidence of RLL infiltrate
   on CT scan.
   - F/u pending sputum sample (grew out 1+ gram neg rods) not yet
   speciated, also with aspergillus sparse growth- if worsens clinically,
   would cover with voriconazole
   - Follow up [**Hospital1 **] [**Location (un) 1415**] sensitivities
   - Continue vanc/zosyn for now given recent pseudomonas and MRSA +
   sputum cultures pending speciation of GNR in sputum
   - will change IV Solumedrol to po prednisone taper
   - continue Ativan prn for anxiety prn BIPAP support prn
   - standing mucolytic
   - Speech and swallow consult given recent intubation though taking po
   per nursing without difficulty
   - CXR this morning given extubated yesterday
   - will need f/u CT in 6 weeks to ensure PNA resolution
   - contact out patient pulmonologist ([**Name (NI) 391**] [**Last Name (NamePattern1) 612**])
   # Hypertension:  Was hypertensive overnight to 180
s, has not been on
   home amlodipine, will start this morning
   - continue home verapamil 240mg qd
   - will start low dose beta blocker, would not give diuretic given
   hyponatremia
   - if continued to be hypertensive can trated with iv hydral and
   titrates up BB
   # Hyponatremia:  Resolved, 135 this morning with 2L fluid restriction.
   Urine lytes unchange from yesterday.  Likely some component of SIADH
   and large standing dose of home lasix
   - Continue to trend Na
   - continue fluid restriction to 2L
   - Appreciate renal consult, will f/u recs
   - will restart Lasix at low dose
 20mg po qd
   - would not use HCTZ for bp control
   # Anemia: Stable this morning at 29.  On admission, patient
s Hct
   decreased from 31.1 to 27.7.  No clinical evidence of bleeding.  Hct
   was 32.5 on admission (baseline Hct appears to be in the high 20
s to
   low 30
   - Guaiac all stools.
   - continue to follow daily Hct.
   # Lower extremity edema: Per the family, this has been an ongoing
   problem, never any definitive etiology.  He has diastolic heart
   failure, but no pnd/orthopnea or other symptoms suggestive of acute
   CHF.  Also, BNP was less than 400.
   - will restart lasix this morning at lower dose -20mg po qd (home dose
   is 60mg [**Hospital1 **])
   - compression stockings
   ICU Care
   Nutrition: soft diet ADAT
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2115-2-16**] 09:30 AM
   PICC Line - [**2115-2-16**] 02:30 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 5028**] has done well off the ventilator with increasing secretion
   output but elevated SBP too. His Na has corrected well thus far with
   fluid restriction. Sputum cultures showing aspergillus and GNR.
   Exam notable for Tm 96.3 BP 180/70 HR of 93  RR  of 12 with sat 96% on
   3lpm . He has diffuse expiratory wheezing but no rales. There is no
   edema either. He remains mildly anxious. Labs notable for WBC 12.5 K,
   HCT of 29.5, K+ of 3.8, Cr of 0.6. CXR with interval improvement in RLL
   ASD.
   Agree with plan to transition to PO steroids and continue IV
   antibiotics. We will hold off on starting Rx for aspergillus in airway
   at this time as suspicion for fungal PNA ( as opposed to GNR PNA) is
   lower. If he deos not improve with ongoing treatment, then PO
   voriconazole/ posiconazole would help. He will need help with nebs, IS
   and mucinex once he leaves the ICU. Low dose Lasix to be restarted
   today in addition to lopressor for BP and HR control. Xanax may be used
   carefully for anxiety. He is happy that short term intubation was done
   and he wishes this in the future too if there is a respiratory setback
   but not on a prolonged basis.
   Remainder of plan as outlined above.
   Patient is stable to leave ICU
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2115-2-18**] 12:15 PM ------

2115-02-19 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory Failure/COPD exacerbation
   24 Hour Events:
   - Pt started on Lopressor PO and steroid taper
   History obtained from Patient
   Allergies:
   History obtained from PatientTetanus Diphtheria (Intramusc) (Tetanus
   Diphther Toxoid)
   Hives;
   Lisinopril
   Angioedema;
   Mavik (Oral) (Trandolapril)
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2115-2-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-19**] 01:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-2-19**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-19**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 76 (73 - 106) bpm
   BP: 164/65(89) {149/57(80) - 197/99(113)} mmHg
   RR: 14 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 68 Inch
             Total In:
                                                                  2,395 mL
                                                                    494 mL
   PO:
                                                                  1,480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    915 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    775 mL
   Urine:
                                                                  2,025 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   9.7 g/dL
   111 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.5 mEq/L
   16 mg/dL
   92 mEq/L
   132 mEq/L
   28.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2115-2-16**]  07:39 PM
                             [**2115-2-17**]  04:24 AM
                             [**2115-2-17**]  09:56 AM
                             [**2115-2-17**]  10:03 AM
                             [**2115-2-17**]  12:00 PM
                             [**2115-2-17**]  04:00 PM
                             [**2115-2-17**]  05:47 PM
                             [**2115-2-18**]  05:07 AM
                             [**2115-2-18**]  06:27 AM
                             [**2115-2-19**]  05:17 AM
   WBC
   7.2
   12.5
   14.0
   Hct
   27.7
   29.6
   28.7
   Plt
   [**Telephone/Fax (3) 7572**]
   Cr
   0.7
   0.6
   0.6
   0.7
   0.6
   0.5
   TCO2
   32
   Glucose
   137
   162
   145
   162
   162
   206
   202
   111
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:45/5/0.04, Differential-Neuts:90.5 %, Lymph:4.1 %, Mono:4.8
   %, Eos:0.4 %, Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ELECTROLYTE & FLUID DISORDER, OTHER
   66 year-old male with severe COPD and recent admission for COPD
   exacerbation who is admitted intubated after experiencing increased WOB
   and hyponatremia.
   #. Respiratory failure:  Resolving, successfully extubated yesterday
   morning.  Pt presented to the ED with complaints of dyspnea, upon
   assessment required intubation. Pt has a history of dyspnea that
   improves only with an increase in his steroid doses. His last
   spirometry in [**2114-12-26**] showed Stage IV COPD with an FEV1 28%; FEV1/FVC
   55%.  He did not improve with diuresis, nitro page or nitro gtt, so
   this does not likely represent a CHF exacerbation. Also BNP was low at
   364. Had recent admission for COPD exacerbation and was treated with 10
   days of ceftaz and 5 days of Bactrim for pseudomonas/MRSA + sputum.
   Patient did not appear to have much of a cough or sputum production
   prior to intubation.  However, he does have evidence of RLL infiltrate
   on CT scan.
   - F/u pending sputum sample (grew out 1+ gram neg rods) not yet
   speciated, also with aspergillus sparse growth- if worsens clinically,
   would cover with voriconazole
   - Follow up [**Hospital1 **] [**Location (un) 1415**] sensitivities
   - Continue vanc/zosyn for now given recent pseudomonas and MRSA +
   sputum cultures pending speciation of GNR in sputum
   - will change IV Solumedrol to po prednisone taper
   - continue Ativan prn for anxiety prn BIPAP support prn
   - standing mucolytic
   - Speech and swallow consult given recent intubation though taking po
   per nursing without difficulty
   - CXR this morning given extubated yesterday
   - will need f/u CT in 6 weeks to ensure PNA resolution
   - contact out patient pulmonologist ([**Name (NI) 391**] [**Last Name (NamePattern1) 612**])
    # Hypertension:  Was hypertensive overnight to 180
s, has not been on
   home amlodipine, will start this morning
   - continue home verapamil 240mg qd
   - will start low dose beta blocker, would not give diuretic given
   hyponatremia
   - if continued to be hypertensive can trated with iv hydral and
   titrates up BB
   # Hyponatremia:  Resolved, 135 this morning with 2L fluid restriction.
   Urine lytes unchange from yesterday.  Likely some component of SIADH
   and large standing dose of home lasix
   - Continue to trend Na
   - continue fluid restriction to 2L
   - Appreciate renal consult, will f/u recs
   - will restart Lasix at low dose
 20mg po qd
   - would not use HCTZ for bp control
   # Anemia: Stable this morning at 29.  On admission, patient
s Hct
   decreased from 31.1 to 27.7.  No clinical evidence of bleeding.  Hct
   was 32.5 on admission (baseline Hct appears to be in the high 20
s to
   low 30
   - Guaiac all stools.
   - continue to follow daily Hct.
   # Lower extremity edema: Per the family, this has been an ongoing
   problem, never any definitive etiology.  He has diastolic heart
   failure, but no pnd/orthopnea or other symptoms suggestive of acute
   CHF.  Also, BNP was less than 400.
   - will restart lasix this morning at lower dose -20mg po qd (home dose
   is 60mg [**Hospital1 **])
   - compression stockings
   ICU Care
   Nutrition: Regular
   Glycemic Control: SSI
   Lines:
   PICC Line - [**2115-2-16**] 02:30 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:
   Code status: FULL
   Disposition: transfer to floor

2115-02-19 09:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 year-old male with severe COPD and recent admission for COPD
   exacerbation who is admitted intubated after experiencing increased WOB
   and hyponatremia.
   24 Hour Events:
   HTN yest with SBP to 200s. Resumed on home meds
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus
   Diphther Toxoid)
   Hives;
   Lisinopril
   Angioedema;
   Mavik (Oral) (Trandolapril)
   Angioedema;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-19**] 01:23 AM
   Vancomycin - [**2115-2-19**] 08:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-2-19**] 12:02 AM
   Other medications:
   Colace, Prevacid, Fe supp, Wellbutrin, Flovent, Folate, Insulin,
   Verapamil, amlodipine, Lasix, prednisone 60 qd, Atrovent, Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-19**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 86 (73 - 99) bpm
   BP: 155/103(34) {149/31(34) - 183/103(108)} mmHg
   RR: 19 (11 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 68 Inch
             Total In:
                                                                  2,395 mL
                                                                  1,093 mL
   PO:
                                                                  1,480 mL
                                                                    760 mL
   TF:
   IVF:
                                                                    915 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    955 mL
   Urine:
                                                                  2,025 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   240 K/uL
   111 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.5 mEq/L
   16 mg/dL
   92 mEq/L
   132 mEq/L
   28.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2115-2-16**]  07:39 PM
                             [**2115-2-17**]  04:24 AM
                             [**2115-2-17**]  09:56 AM
                             [**2115-2-17**]  10:03 AM
                             [**2115-2-17**]  12:00 PM
                             [**2115-2-17**]  04:00 PM
                             [**2115-2-17**]  05:47 PM
                             [**2115-2-18**]  05:07 AM
                             [**2115-2-18**]  06:27 AM
                             [**2115-2-19**]  05:17 AM
   WBC
   7.2
   12.5
   14.0
   Hct
   27.7
   29.6
   28.7
   Plt
   [**Telephone/Fax (3) 7572**]
   Cr
   0.7
   0.6
   0.6
   0.7
   0.6
   0.5
   TCO2
   32
   Glucose
   137
   162
   145
   162
   162
   206
   202
   111
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:45/5/0.04, Differential-Neuts:90.5 %, Lymph:4.1 %, Mono:4.8
   %, Eos:0.4 %, Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR-
   Microbiology: Sputum- Pseudomonas, MRSA, Aspergillus (sparse)
   Assessment and Plan
   RESPIRATORY FAILURE- underlying severe COPD, poss exac in the setting
   of probable pna, aspiration vs nosocomial
   -vanco + Zosyn pending cx sensitivity profile. 8d total tx if pan-[**Last Name (un) **]
   Pseudomonas
   -Aspergillus a colonizer, no need to tx
   -prednisone taper
   - will need f/u CT in 6 weeks to ensure PNA resolution
   - contact out patient pulmonologist ([**Name (NI) 391**] [**Last Name (NamePattern1) 612**])
    HTN- sub-optimal control
   -titrate up verapamil, amlodipine
   HYPONATREMIA- resolved
   -avoiding HCTZ and loop diuretic for now
   ANEMIA- stable
   -[**Last Name (un) **] Hct monitoring
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2115-2-16**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes